US07592457B2
3-(3-benzyloxy-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione
The objective compound was prepared by the same procedure for the example 1, using a 4,6-dichloro-2-[2-(3-benzyloxy-phenyl)-propionylamino]-benzoic acid methyl ester (2.80 g, 6.40 mmol) and LiHMDS (19.0 mmol, 1M THF solution). After normal workup, the objective compound (1.90 g, 71%) was obtained as pale yellow solid by a flash column chromatography (n-hexane:EtOAc=9:1): 1H NMR (200 MHz, DMSO-d6) δ 1.55 (s, 3H, CH3), 5.02 (s, 2H, OCH2), 6.69-7.02 (m, 2H, ArH), 7.22-7.38 (m, 7H, ArH), 11.28 (br s, 1H, NH); m.p. 201-203° C.; MS(EI) m/e 426 [M++1], 160, 91.

reactant | 4,6-dichloro-2-[2-(3-benzyloxy-phenyl)-propionylamino]-benzoic acid methyl ester | 6.40 mmol, 2.80 g | COC(C1=C(C=C(C=C1Cl)Cl)NC(C(C)C1=CC(=CC=C1)OCC1=CC=CC=C1)=O)=O | C24H21Cl2NO4
reactant | LiHMDS | 19.0 mmol, 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-benzyloxy-phenyl)-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione | 1.90 g, 71% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(C(NC2=CC(=CC(=C2C1=O)Cl)Cl)=O)C | C23H17Cl2NO3
